US06897306B2
Preparation 87: (3R)-6-Cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic Acid
A solution of tert-butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate (Preparation 86) (500 mg, 1.08 mmol) in dichloromethane (7 ml) was treated with trifluoroacetic acid (3 ml) and stirred at room temperature for 5 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene and dichloromethane. The oil was purified by column chromatography on silica gel eluting with a gradient system of 100:0:0 (dichloromethane:methanol:acetic acid) gradually changing to 90:10:1 (dichloromethane:methanol:acetic acid) to afford the title compound as a colourless oil (374 mg).

reactant | tert-butyl (3R)-6-cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoate | 1.08 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COCC(=O)OCC | C23H38N2O6
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-{3-[(2-ethoxy-2-oxoethoxy)methyl]-1,2,4-oxadiazol-5-yl}hexanoic Acid | 374 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)COCC(=O)OCC | C19H30N2O6
